US09260441B2
Step C: (E)-4,4,4-Trifluoro-1-[4-(2-quinolyl)piperazin-1-yl]but-2-en-1-one
(E)-4,4,4-Trifluorobut-2-enoic acid (28 mg, 0.2 mmol) was dissolved in dichloromethane (1 ml), oxalyl chloride (18 μl, 0.2 mol) and one drop of DMF were added and the resulting solution was stirred at room temperature for 10 minutes. This solution was added to a solution of 2-piperazin-1-ylquinoline hydrochloride (25 mg, 0.1 mmol) in DMF (0.5 ml). Triethylamine (42 μl, 0.3 mmol) was added and the resulting mixture was stirred at room temperature for two hours. The mixture was diluted with ethylacetate and the resulting mixture was washed with saturated sodium bicarbonate solution, brine and dried (MgSO4). The solvent was removed under reduced pressure and the resulting residue was purified by preparative HPLC (Waters XBridge, gradient of water containing 0.1% NH3 and acetonitrile) to yield 15 mg of a solid (0.046 mmol, 46%).

reactant | (E)-4,4,4-Trifluorobut-2-enoic acid | 0.2 mmol, 28 mg | FC(/C=C/C(=O)O)(F)F | C4H3F3O2
reactant | oxalyl chloride | 0.2 mol, 18 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-piperazin-1-ylquinoline hydrochloride | 0.1 mmol, 25 mg | Cl.N1(CCNCC1)C1=NC2=CC=CC=C2C=C1
reactant | Triethylamine | 0.3 mmol, 42 μl | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | (E)-4,4,4-Trifluoro-1-[4-(2-quinolyl)piperazin-1-yl]but-2-en-1-one | 0.046 mmol, 15 mg, 46% | FC(/C=C/C(=O)N1CCN(CC1)C1=NC2=CC=CC=C2C=C1)(F)F | C17H16F3N3O
